US04764623
Perfluorovaleric acid (10 g), ethoxyacetylene (12.3 g) and ethyl acetate (175 mL) were stirred overnight at room temperature under a nitrogen atmosphere. 4-Aminobenzylcyanide (5.57 g) was added and the resulting mixture was allowed to stir at room temperature for 24 hours. The reaction mixture was cooled in ice and 10% aqueous HCl solution was added until a precipitate formed. The solid was collected and washed with water and hexane, sequentially, and dried in vacuo to yield 7.4 g (53%) of 2,2,3,3,4,4,5,5,5-nonafluoro-N-[4-(cyanomethyl)phenyl]pentanamide as a tan solid, m.p. 126°-128° C.

reactant | Perfluorovaleric acid | 10 g | FC(C(=O)O)(C(C(C(F)(F)F)(F)F)(F)F)F | C5HF9O2
reactant | ethoxyacetylene | 12.3 g | C(C)OC#C | C4H6O
reactant | 4-Aminobenzylcyanide | 5.57 g | NC1=CC=C(CC#N)C=C1 | C8H8N2
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 175 mL | C(C)(=O)OCC | C4H8O2
product | 2,2,3,3,4,4,5,5,5-nonafluoro-N-[4-(cyanomethyl)phenyl]pentanamide | 7.4 g, 53% | FC(C(=O)NC1=CC=C(C=C1)CC#N)(C(C(C(F)(F)F)(F)F)(F)F)F | C13H7F9N2O
